US09427475B2
Step F: 2-aminoethyl α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-β-D-glucopyranoside
A mixture of benzyl (2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-4-O-benzyl-β-D-glucopyranosyl]oxy}ethyl)carbamate (0.96 g, 1.244 mmol) and Pd/C (124 mmol) in water (20 mL) was allowed to stir under a balloon of H2 at rt for 16 h. The catalyst was filtered off and washed with H2O (3×10 mL). The Titrate was concentrated to give the title compound. UPLC Method B: calculated for C20H37NO16 547.21, observed m/e: 548.29 [M+1]; Rt=0.87 min. 1H NMR (D2O) δ 5.20-5.19 (1H, m), 4.88-4.87 (1H, m), 4.51-4.49 (1H, m), 4.05 (1H, m), 4.00-3.90 (4H, m), 3.85-3.70 (9H, m), 3.70-3.60 (5H, m), 3.40-3.30 (1H, m), 3.05-3.00 (2H, m).

reactant | benzyl (2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-4-O-benzyl-β-D-glucopyranosyl]oxy}ethyl)carbamate | 1.244 mmol, 0.96 g | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@H]([C@@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OCCNC(OCC1=CC=CC=C1)=O)O | C35H49NO18
solvent | water | 20 mL | O | H2O
catalyst | Pd/C | 124 mmol | [Pd] | Pd
product | 2-aminoethyl α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-β-D-glucopyranoside | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@H]([C@H](OCCN)O[C@@H]([C@H]1O)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O | C20H37NO16
